US07312241B2
6-Bromo-2,2,3,3-tetrafluoro-2,3-dihydrobenzo[1,4]dioxine (1.50 g, 5.23 mmol), 3,5-dimethoxybenzaldehyde (0.79 g, 4.75 mmol), and n-butyl lithium (2.09 ml, 5.23 mmol) were treated in the same manner as described above for the synthesis of (2,3-dihydrobenzo[1,4]dioxin-6-yl)-(3,5-dimethoxyphenyl)methanol. The crude material was purified via flash column chromatography (5% EtOAc in hexane gradient to 30% EtOAc in hexane in about 40 min.) to give (3,5-Dimethoxy-phenyl)-(2,2,3,3-tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-5-yl)-methanol as an oil (0.47 g, 26%): 1HNMR (CDCl3) 7.37 (dd, J=1, 7 Hz, 1H, Ar), 7.17 (t, J=8 Hz, 1H, Ar), 7.06 (dd, J=1, 8 Hz, 1H, Ar), 6.57 (d, J=2 Hz, 2H, Ar), 6.38 (t, J=2 Hz, 1H, Ar), 6.12 (d, J=3 Hz, 1H, CHOH), 3.77 (s, 6H, 2OCH3),2.36 (d, J=3 Hz, 1H, OH). The product was carried over to the next step.

reactant | 6-Bromo-2,2,3,3-tetrafluoro-2,3-dihydrobenzo[1,4]dioxine | 5.23 mmol, 1.50 g | BrC1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1 | C8H3BrF4O2
reactant | 3,5-dimethoxybenzaldehyde | 4.75 mmol, 0.79 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | n-butyl lithium | 5.23 mmol, 2.09 ml | C(CCC)[Li]
reactant | (2,3-dihydrobenzo[1,4]dioxin-6-yl)-(3,5-dimethoxyphenyl)methanol | O1CCOC2=C1C=CC(=C2)C(O)C2=CC(=CC(=C2)OC)OC | C17H18O5
product | (3,5-Dimethoxy-phenyl)-(2,2,3,3-tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-5-yl)-methanol | 0.47 g, 26% | COC=1C=C(C=C(C1)OC)C(O)C1=CC=CC=2OC(C(OC21)(F)F)(F)F | C17H14F4O5
